US05248689
(i) N-[{1-[(2-chlorophenyl)methyl]-2-n-butyl-1H-imidazol-5-yl}methylene]-β-(2-thienyl) alanine methyl ester
A solution of 2-n-butyl-1-[(2-chlorophenyl)methyl]-1H-imidazol-5-carboxaldehyde (0.6 g, 2.12 mmol), β-(2-thienyl)alanine methyl ester (0.4 g, 2.16 mmol) and toluene (25 ml) was refluxed under argon with a Dean-Stark water separator for 8 hours. The solvent was evaporated to an orange-red oil (1.1 g) of the title imine whose NMR was consistent with the structure.

reactant | 2-n-butyl-1-[(2-chlorophenyl)methyl]-1H-imidazol-5-carboxaldehyde | 2.12 mmol, 0.6 g | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=CC=C1)Cl | C15H17ClN2O
reactant | β-(2-thienyl)alanine methyl ester | 2.16 mmol, 0.4 g | COC([C@@H](N)CC=1SC=CC1)=O | C8H11NO2S
reactant | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | N-[{1-[(2-chlorophenyl)methyl]-2-n-butyl-1H-imidazol-5-yl}methylene]-β-(2-thienyl) alanine methyl ester | COC([C@@H](N=CC1=CN=C(N1CC1=C(C=CC=C1)Cl)CCCC)CC=1SC=CC1)=O | C23H26ClN3O2S
